Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abd pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ y/o F with h/o SBO requiring LOA and SBR in ___
who presents with 12 hrs of crampy diffuse abdominal pain that
does not radiate and has no relieving symptoms.  She reports 
that
the pain is similar to bowel obstructions which she has had in
the past and have always resolved with conservative management
ever since her surgical SBO in ___.  She has not begun to vomit
and is not nauseous.  Last BM this am.  Last flatus yesterday. 
No fevers, chills, chest pain, shortness of breath, dysuria,
hematuria, BRBPR, URI symptoms.

 
Past Medical History:
Hysterectomy/Oophorectomy, SBO with LOA and SBR in ___,
Recurrent conservatively managed sbo's, Depression, Anxiety, 
GERD

 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
At discharge:
V.S: 98.6, 62, 110/50, 20, 96 RA
Gen: a and o x3, NAD
CV: RRR, no m/r/g
Resp: lscta bilat
Abd: soft, nt, nd, +bs
Ext: no c/c/e
 
Pertinent Results:
___ 07:35AM BLOOD WBC-6.2 RBC-3.68* Hgb-11.7* Hct-35.5* 
MCV-97 MCH-31.9 MCHC-33.0 RDW-12.5 Plt ___
___ 10:15AM BLOOD Neuts-64.0 ___ Monos-4.0 Eos-1.7 
Baso-0.8
___ 07:35AM BLOOD Glucose-86 UreaN-10 Creat-0.7 Na-141 
K-4.1 Cl-108 HCO3-28 AnGap-9
___ 10:15AM BLOOD ALT-30 AST-24 AlkPhos-66 TotBili-0.5
___ 07:35AM BLOOD Calcium-8.5 Phos-3.2 Mg-2.2
.
CT ABDOMEN W/CONTRAST  ___:
1. Findings consistent with small-bowel obstruction with 
transition point in the central lower abdomen likely due to 
adhesions. Tethering of several small bowel loops is seen in 
this region and may be due to adhesions, less likely to 
endometriosis.    
2. Unchanged hepatic hypodensities, most likely hepatic cysts 

 
Brief Hospital Course:
Pt was admitted to ___ and was made NPO with IV hydration 
and IV medications. The patient's pain started to improve and 
she was advanced from sips to regular diet which she tolerated 
well. The patient's pain resolved with bowel rest. She will 
follow up with Dr. ___ PCP as needed. Discharge 
paperwork was reviewed with patient and home meds were resumed. 
 
Medications on Admission:
Protonix 40', Klonopin 0.25''', Citalopram 80'

 
Discharge Medications:
1. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day).  
2. Citalopram 20 mg Tablet Sig: Four (4) Tablet PO DAILY 
(Daily).  
3. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Partial small bowel obstruction 
. 
Secondary: 
Hysterectomy/Oophorectomy, SBO with LOA and SBR in ___,  
Recurrent conservatively managed sbo's, Depression, Anxiety, 
GERD  

 
Discharge Condition:
Stable.
Tolerating regular diet
Pain well controlled with oral medications.

 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.

 
Followup Instructions:
___